US05116863
11-(3-Dimethylaminopropylidene)-6,11-dihydrodibenz [b,e]oxepin-2-acetic acid (Compound 20)
In this Example, 2.2 g of 11-(3-dimethylaminopropylidene)-2-(2-hydroxyethyl)-6,11-dihydrodibenz[b,e]oxepin is dissolved in 100 ml of acetone. The Jones reagent is added to the solution until the reaction solution shows an orange color and the mixture is stirred at room temperature for one hour. Sodium bicarbonate is added thereto and an inorganic substance is removed by filtration. The solvent of the filtrate is distilled away under reduced pressure to obtain the desired product. The physicochemical properties of the product coincide with those of the product obtained in Example 35.

reactant | 11-(3-dimethylaminopropylidene)-2-(2-hydroxyethyl)-6,11-dihydrodibenz[b,e]oxepin | 2.2 g | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCO)C | C21H25NO2
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 11-(3-Dimethylaminopropylidene)-6,11-dihydrodibenz [b,e]oxepin-2-acetic acid | CN(CCC=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)O)C | C21H23NO3
